US09351974B2
Step f: Synthesis of 3-[(7R)-2-chloro-8-(4,4-difluorocyclohexyl)-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile
To a stirred solution of (7R)-2-chloro-8-(4,4-difluorocyclohexyl)-7-methyl-7,8-dihydropteridin-6(5H)-one (1.80 g, 5.7 mmol) in dichloromethane (75 mL) was added triethylamine (8.07 ml, 57.8 mmol), cupric acetate (2.09 g, 11.56 mmol) and (3-cyanophenyl)boronic acid (1.69 g, 11.56 mmol) followed by 4 Å molecular sieves (2 g). The reaction mixture was stirred for 48 h at rt with an air balloon on the top. The reaction mixture was then filtered over celite to give a clear solution. The solution was washed with aqueous saturated sodium bicarbonate (50 mL×2), dried over anhydrous sodium sulfate and evaporated to give a crude material, which was then purified by silica gel column chromatography (eluent: 2% methanol in dichloromethane) to give the desired product (51%). 1HNMR (300 MHz, CDCl3): δ 1.50 (d, J=6.9 Hz, 3H), 1.80-2.24 (m, 8H), 4.40-4.61 (m, 2H), 7.20-7.26 (m, 1H), 7.47 (d, J=7.5 Hz, 1H), 7.55 (s, 1H), 7.69 (t, J=7.8 Hz, 1H), 7.80 (d, J=8.1 Hz, 1H).

reactant | (7R)-2-chloro-8-(4,4-difluorocyclohexyl)-7-methyl-7,8-dihydropteridin-6(5H)-one | 5.7 mmol, 1.80 g | ClC1=NC=2N([C@@H](C(NC2C=N1)=O)C)C1CCC(CC1)(F)F | C13H15ClF2N4O
reactant | triethylamine | 57.8 mmol, 8.07 ml | C(C)N(CC)CC | C6H15N
reactant | (3-cyanophenyl)boronic acid | 11.56 mmol, 1.69 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3-[(7R)-2-chloro-8-(4,4-difluorocyclohexyl)-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | 51% | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)C)C1CCC(CC1)(F)F | C20H18ClF2N5O
